US05278333
α-Phenylpropionic acid
α-Phenylmethylpropionate can be obtained under similar conditions, by reacting a mixture of phenylacetic acid, dimethyl carbonate and K2CO3, in a 1:20:2 molar ratio, in autoclave at a temperature of 225° C., for 15 hours.

reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | α-Phenylpropionic acid | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
